US04659503
7.3 g of chlorine are passed in, or 17 g of bromine are added dropwise, with stirring, to a solution of 23.1 g of 2-(2-pentyl-5-pyridyl)-thiophene in 40 ml of CCl4 at 20°. After the mixture has been left to stand for 1 hour, it is warned at 50° for 2 hours, washed with dilute sodium hydroxide solution and worked up in the customary manner to give 5-chloro-2-(2-pentyl-5-pyridyl)-thiophene, m.p. 32°, c.p. 18° (or 5-bromo-2-(2-pentyl-5-pyridyl)-thiophene).

reactant | chlorine | 7.3 g | ClCl | Cl2
reactant | bromine | 17 g | BrBr | Br2
reactant | 2-(2-pentyl-5-pyridyl)-thiophene | 23.1 g | C(CCCC)C1=NC=C(C=C1)C=1SC=CC1 | C14H17NS
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloro-2-(2-pentyl-5-pyridyl)-thiophene | ClC1=CC=C(S1)C=1C=CC(=NC1)CCCCC | C14H16ClNS
